US05082841
3-Butyryl-4-(4-fluoro-2-methylphenylamino)-8-hydroxyquinoline (3.38 g, 10 mmol) and potassium t-butoxide (3.05 g, 25 mmol) were dissolved in dimethyl formamide (30 ml), warmed to 70° and 3-dimethylaminopropyl chloride hydrochloride (1.90 g, 12 mmol) added. The mixture was stirred for 1 hour at 80° then a further portion of potassium t-butoxide (2.44 g, 20 mmol) and 3-dimethylaminopropyl chloride hydrochloride (1.58 g, 10 mmol) added, and stirring continued overnight. A third portion of potassium t-butoxide (2.44 g, 20 mmol) and 3-dimethylaminopropyl chloride hydrochloride (1.58 g, 10 mmol) was added and the temperature raised to 85° . After a further 5 hours the mixture was poured into water, extracted with ether and the ether extracts dried and evaporated. Chromatography (silica gel, 4-6% methanolic ammmonia in dichloromethane) and recrystallisation from ethyl acetate gave 3-butyryl-4-(4-fluoro-2-methylphenyl-amino)-8-(3-dimethylaminopropoxy)quinoline (0.46 g, 11%), m.p. 99°-100°.

reactant | 3-Butyryl-4-(4-fluoro-2-methylphenylamino)-8-hydroxyquinoline | 10 mmol, 3.38 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)F)C)O | C20H19FN2O2
reactant | potassium t-butoxide | 25 mmol, 3.05 g | CC(C)([O-])C.[K+]
reactant | 3-dimethylaminopropyl chloride hydrochloride | 12 mmol, 1.90 g | Cl.CN(CCCCl)C
reactant | potassium t-butoxide | 20 mmol, 2.44 g | CC(C)([O-])C.[K+]
reactant | 3-dimethylaminopropyl chloride hydrochloride | 10 mmol, 1.58 g | Cl.CN(CCCCl)C
reactant | potassium t-butoxide | 20 mmol, 2.44 g | CC(C)([O-])C.[K+]
reactant | 3-dimethylaminopropyl chloride hydrochloride | 10 mmol, 1.58 g | Cl.CN(CCCCl)C
reactant | water | O | H2O
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-butyryl-4-(4-fluoro-2-methylphenyl-amino)-8-(3-dimethylaminopropoxy)quinoline | 0.46 g, 11% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)F)C)OCCCN(C)C | C25H30FN3O2
